Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Leg stiffness
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ with PMH of uterine polyps s/p TAH/BSO, mitral valve
prolapse, hypertension who presented to the ED with L leg
stiffness. She was referred by her son, Dr ___, who is a
neurologist here at ___.

Patient states that she was in her usual state of health until
last ___, when she went to ___ class. Prior to that she
had not gone to ___ class for a long time, but she stays 
active
by walking 2 miles a day. After her ___ class, she felt like
her L leg was stiff. She denies pain or shooting sensation down
the leg; it just felt stiff and made it difficult for her to
walk. She still walks independently without use of walker or
cane; however, she feels that she now sometimes needs to hold
onto objects to keep herself steady. She also endorses bilateral
tingling sensation in both feet which she has had for at least a
year. No tingling in hands.

Patient denies lightheadedness, vision changes, nausea, 
vomiting,
diarrhea, fever, incontinence, dysuria, or recent weight 
changes.
She states her appetite is good. However, her husband passed 
away
6 weeks ago and she is still adjusting to that change. She now
lives alone and is able to manage her own affairs independently.
She states she 'sometimes' has hypertension. Her PCP prescribed
her nifedipine, but she stopped taking it because it made her
foot uncomfortable ?swelling.

 
Past Medical History:
uterine polyps s/p TAH/BSO
mitral valve prolapse
hypertension
L rotator cuff surgery  
 
Social History:
___
Family History:
Father 'smoked like a chimney'
Mother had obesity
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: 97.9 53 143/70 16 97% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: Supple
Pulmonary: Normal work of breathing.
Cardiac: Warm, ___.
Extremities: Bilateral significant ankle edema noted, L>R, which
per patient is chronic since she gave birth to 4 children.
Varicose veins.
MSK: No pain to palpation of L hip or knee. Negative straight 
leg
raise bilaterally
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, Language is fluent with intact
comprehension. Normal prosody. There were no paraphasic errors. 
No dysarthria. Able to follow both midline and appendicular
commands. 

-Cranial Nerves:
II, III, IV, VI:  PERRL L pupil 4-> 3.5 and slightly more
sluggish than R 4->3.5. Patient had bilateral cataract surgery. 
EOMI without nystagmus. Normal saccades. VFF to confrontation. 
V:
Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to conversation.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: limited by L shoulder weakness after rotator cuff
surgery. No pronator drift seen.
  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    4+   5    5    5    5    5   5    5    5   5    5   
R    5    5    5    5    5    5   5    5    5   5    5   

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception in bilateral big toes. Intact
sensation to PP and vibration in bilateral feet. No extinction 
to
DSS.  

-Reflexes:
  [Bic] [Tri] [___] [Pat] 
L   2     2      2      2    
R   3     2      3      3      
Plantar response was flexor on R; mute on L.

-Coordination: No intention tremor. Normal ___
bilaterally. No dysmetria on FNF bilaterally.

-Gait: Cautious gait. Narrow based, but patient appeared 
slightly
stooped and guarding her L side. Per discussion with Dr ___
on the phone, her baseline gait is quick and narrow based. She
was not walking quickly on exam.

DISCHARGE PHYSICAL EXAM
=======================
Vitals:24 HR Data (last updated ___ @ 723)
    Temp: 97.3 (Tm 97.9), BP: 156/75 (___), HR: 50
(___), RR: 17 (___), O2 sat: 95% (___), O2 delivery: Ra,
Wt: 129.2 lb/58.61 kg
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity. Full ROM. Pain which he
describes as stiffness on neck extension not reproducible with
palpation.
Pulmonary: Lungs CTA bilaterally in posterior fields without
R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented to ___, month and day..
Able to relate history without difficulty. Attentive, able to
name ___ backward without difficulty. Language is fluent with
intact repetition and comprehension. Normal prosody. There were
no paraphasic errors. Pt was able to name both high and low
frequency objects.  Speech was not dysarthric. Able to follow
both midline and appendicular commands. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  L pupil 4->2mm, R pupil (surgical) 4.5->2mm
(right upper lid <1mm different). EOMI without nystagmus. Normal
saccades. VFF to confrontation. Patient reports diplopia that is
persistent on primary gaze and when he looks in multiple
directions.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to ___ bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  4+   ___      5    ___     5        5    5     5   
      5   
R  5     ___      5     ___    5        5     5     5 
        5

-Sensory: Subtle decrease in position sense of right big toe w/
small movements. No deficits to light touch, pinprick or 
position
sense  throughout.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  2    2       2   2
R  3  2    2       2   2
- Very subtle asymmetry of reflexes, w/ right slightly > left
most prominent in R. biceps and ankle jerk, but still w/ similar
spread (ie. R. and left biceps spreads to finger flexors) 
- No hoffmans, no crossed pecs. 
- Mute plantar responses b/l 

-Coordination: No intention tremor. No dysmetria on FNF. Small 
finger taps b/l, no true decrement. Similar
for hand open/closing. 

-Gait: Good initiation. ___, slightly antalgic stride
and normal arm swing.  Able to walk in tandem without 
difficulty.
Romberg absent.

 
Pertinent Results:
ADMISSION LABS
==============
___ 10:40PM BLOOD ___ 
___ Plt ___
___ 10:40PM BLOOD ___ 
___
___ 10:40PM BLOOD ___
___ 10:48PM BLOOD ___

DISCHARGE LABS 
================
___:02AM BLOOD ___ 
___ Plt ___
___ 07:02AM BLOOD ___ 
___
___ 07:02AM BLOOD ___
___ 07:02AM BLOOD ___
___ 07:02AM BLOOD ___
 
Brief Hospital Course:
___ is an ___ yo woman w/ pmhx of HTN who presents for 
evaluation of left leg discomfort/stiffness and ambulation 
difficulties. 

Transitional Issues 
==================== 
[ ] Patient has concerns about nifedipine re:Edema, however only 
took one dose of this medication and has not been taking it 
since. She was hypertensive this admission w/ SBPs ___ 
[ ] Patient given prescription for outpatient physical therapy
[ ] A1c 5.8 

#Leg Stiffness 
#Difficulty Ambulating 
Overall patient presenting w/ left leg stiffness and a more 
cautious gait. Her neurologic exam was largely normal with 
exception of perhaps a very subtle hyperreflexia (R>L) that is 
likely not clinically significant. Her gait did appear a bit 
antalgic, however she had full strength in all isolated muscle 
groups. She was not having active pain at the time of this 
evaluation. No history of recent falls or trauma. Ultimately we 
attribute this largely to an overuse injury in the setting of 
recent ___ classes (in addition to her normal 2+ miles of 
walking daily). She will likely benefit from further physical 
therapy which we have provided her a prescription for. 

#Foot Numbness
Pt does note about a one year history of intermittent foot 
numbness and feeling of "rubber on the bottom of her feet", 
which by history may be compatible with the beginning of a small 
fiber neuropathy. On examination she only has a slight decrease 
in position sense of her right big toe, with an otherwise normal 
sensory exam, possibly consistent with an early small fiber 
neuropathy. TSH, B12, and electrolyte were within normal limits. 
A1c slightly elevated at 5.8 in the ___ range. 

#HTN 
Pt noted to be hypertensive overnight w/ SBP ___. Recently 
started on nifedipine as an outpatient, but only took 1 dose 
before stopping (she had a leg cramp and was worried about 
edema).We did not start any new medications while she was 
inpatient. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO WEEKLY 
2. NIFEdipine (Extended Release) 30 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 325 mg PO WEEKLY  
2.  NIFEdipine (Extended Release) 30 mg PO DAILY  
3.Outpatient Physical Therapy
848.8 Muscle Strain 

Physical Therapy 

___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Musculoskeletal Pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You came to the hospital because you were having some stiffness 
and discomfort in your hip and leg and some difficulty walking. 

We checked some labs (which were all normal). We think there is 
likely a muscle strain or overuse injury causing your difficulty 
walking. 

We think  you would benefit from further physical therapy (we 
have given you a prescription that can be used in ___. 

You should follow up with your primary care physician 

- ___ ___ ___ Team 
 
Followup Instructions:
___